US06265575B1
Part A. 4-Bromo-2-methylphenyl 2-(1-Pyrrolidinyl)ethyl Ether
4-Bromo-2-methylphenol (10 g, 53.5 mmol) and 1-(2-chloroethyl)pyrrolidine HCl (11 g, 64.7 mmol) were heated at 80° C. in 500 mL of DMF in the presence of K2CO3 (22 g, 159.2 mmol) for 16 h. After cooling, the crude product was filtered and concentrated in vacuo. The brown oily residue was purified by PrepLC (SiO2; gradient of 90:8:2 to 85:10:5 hexanes-THF-TEA) to afford 11.25 g (39.6 mmol; 74%) of the title compound as a clear, colorless oil.

reactant | 4-Bromo-2-methylphenol | 53.5 mmol, 10 g | BrC1=CC(=C(C=C1)O)C | C7H7BrO
reactant | 1-(2-chloroethyl)pyrrolidine HCl | 64.7 mmol, 11 g | Cl.ClCCN1CCCC1
reactant | K2CO3 | 159.2 mmol, 22 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 500 mL | CN(C)C=O | C3H7NO
product | 4-Bromo-2-methylphenyl 2-(1-Pyrrolidinyl)ethyl Ether | N1(CCCC1)CCOC1=C(C=C(C=C1)Br)C | C13H18BrNO
